US07319103B2
1-{3-[4-(6,7-Dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-phenoxy]-propyl}-pyrrolidin-3-(R)-ol
Using the method described for the preparation of 10-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene, the reaction of 8-[4-(3-chloro-propoxy)-phenyl]-6,7-dihydro-5H-1,4,8a-triaza-s-indacene and 3-(R)-hydroxy-pyrrolidine provided the title compound.

reactant | 10-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | CC1N(CCC1)CCCOC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C25H32N4O
reactant | 8-[4-(3-chloro-propoxy)-phenyl]-6,7-dihydro-5H-1,4,8a-triaza-s-indacene | ClCCCOC1=CC=C(C=C1)C1=C2CCCC2=NC2=CC=NN12 | C18H18ClN3O
reactant | 3-(R)-hydroxy-pyrrolidine | O[C@H]1CNCC1 | C4H9NO
product | 1-{3-[4-(6,7-Dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-phenoxy]-propyl}-pyrrolidin-3-(R)-ol | N1=CC=C2N=C3CCCC3=C(N12)C1=CC=C(OCCCN2C[C@@H](CC2)O)C=C1 | C22H26N4O2
